### PR TITLE
feat(CategoryTheory): preradicals in abelian categories

### PR DESCRIPTION
**Pull request by farmanb**
Following Stenström's development, define preradicals on an abelian category, together with the quotient and colon constructions, and characterize radical preradicals via vanishing on quotients.

This provides infrastructure for torsion theories in abelian categories.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Preradical/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,65 @@
...
+attribute [instance] Preradical.mono_app
+
+namespace Preradical
+
+variable {C : Type*} [Category C] [Abelian C] (r : Preradical C)
+
+instance : Coe (Preradical C) (C ⥤ C) := ⟨fun r => r.toFunctor⟩
+
+/-- A preradical `r` is idempotent if `r ⋙ r ≅ r` as endofunctors. -/
+def IsIdempotent : Prop := Nonempty (r.toFunctor ⋙ r.toFunctor ≅ r.toFunctor)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Preradical/Basic.lean]: I am not sure this is the right mathematical definition, as I believe we want an isomorphism that is compatible with the embedding.

File: Mathlib/CategoryTheory/Preradical/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,65 @@
...
+-/
+
+@[expose] public section
+
+open CategoryTheory
+
+/-- A preradical on an abelian category `C` is a subfunctor of the identity functor,
+given by a functor `F : C ⥤ C` together with a natural transformation `η : F ⟶ 𝟭 C`
+whose components are monomorphisms. -/
+structure Preradical (C : Type*) [Category C] [Abelian C] extends (C ⥤ C) where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Preradical/Basic.lean]: I believe the following sketch of code would fit more with the already existing API in mathlib. Note that this gives the category structure on `Preradical C`, and we also have a preorder on the related type `Subobject (𝟭 C)`, which should help get the lattice structure:
```lean
module

public import Mathlib.CategoryTheory.Abelian.Basic
public import Mathlib.CategoryTheory.Subobject.MonoOver
public import Mathlib.CategoryTheory.Limits.FunctorCategory.EpiMono

universe v u

namespace CategoryTheory.Abelian

variable {C : Type u} [Category.{v} C] [Abelian C]

variable (C) in
abbrev Preradical := MonoOver (𝟭 C)

namespace Preradical

variable (Φ : Preradical C)

abbrev r : C ⥤ C := Φ.obj.left

abbrev ι : Φ.r ⟶ 𝟭 C := Φ.obj.hom

@[reassoc (attr := simp)]
lemma r_map_ι_app (X : C) :
    Φ.r.map (Φ.ι.app X) = Φ.ι.app (Φ.r.obj X) := by
  rw [← cancel_mono (Φ.ι.app X)]
  exact Φ.ι.naturality (Φ.ι.app X)

class IsIdempotent : Prop where
  isIso_whiskerLeft_r_ι : IsIso (Functor.whiskerLeft Φ.r Φ.ι)

attribute [instance] IsIdempotent.isIso_whiskerLeft_r_ι

instance [Φ.IsIdempotent] (X : C) :
    IsIso (Φ.ι.app (Φ.r.obj X)) :=
  inferInstanceAs (IsIso ((Functor.whiskerLeft Φ.r Φ.ι).app X))

instance [Φ.IsIdempotent] (X : C) :
    IsIso (Φ.r.map (Φ.ι.app X)) := by
  rw [r_map_ι_app]
  infer_instance

end Preradical

end CategoryTheory.Abelian
```

File: Mathlib/CategoryTheory/Preradical/Basic.lean (hunk 1 above)
Comment (farmanb) [reply Mathlib/CategoryTheory/Preradical/Basic.lean]: Yeah, that was definitely an oversight on my part.

File: Mathlib/CategoryTheory/Preradical/Basic.lean (hunk 2 above)
Comment (farmanb) [reply Mathlib/CategoryTheory/Preradical/Basic.lean]: I've incorporated this and made the relevant updates.

File: Mathlib/CategoryTheory/Preradical/Colon.lean [hunk 3]
```diff
@@ -0,0 +1,166 @@
...
+variable {C : Type*} [Category C] [Abelian C]
+
+namespace Preradical
+
+variable (Φ Ψ : Preradical C)
+
+/-- The underlying endofunctor of the colon preradical `Φ : Ψ`. -/
+noncomputable
+def colonLeft : C ⥤ C where
+  obj (X : C) := pullback (Φ.π X) (Ψ.ι.app (Φ.quotient.obj X))
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Preradical/Colon.lean:55]: Note that the `pullback` could be computed in `C ⥤ C` directly rather than "objectwise" in `C`.

**Comment by farmanb** [comment]
Created PR #35514, which contains only CategoryTheory/Abelian/Preradical/Basic.lean

File: Mathlib/CategoryTheory/Preradical/Colon.lean (hunk 3 above)
Comment (farmanb) [reply Mathlib/CategoryTheory/Preradical/Colon.lean:55]: I’ve rewritten the colon construction so that the pullback is computed directly in `C ⥤ C` rather than objectwise in `C` (see #35585).

I also split off the radical material into a separate PR (#35586).
